US04061861
To one liter of methanol were added 89 grams (0.82 mole) of o-phenylenediamine and 25.7 ml. (0.41 mole) of methyl iodide. The mixture was refluxed for 2 hours, and an additional 25.7 ml. (0.41 mole) of methyl iodide then were added. The total mixture was refluxed for 12 hours. The major portion of the methanol then was removed in vacuo. The residual brown oil was poured into two liters of crushed ice, and the pH of the mixture was raised to 9.0 by addition of potassium hydroxide. The resulting mixture then was extracted with ethyl ether, and the extract was dried over potassium carbonate. The ether was removed in vacuo, and the residue was distilled at about 120° C./8 mm. to obtain N-methyl-o-phenylenediamine as a yellow oil which turned brown upon standing.

reactant | o-phenylenediamine | 0.82 mole, 89 grams | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | methyl iodide | 0.41 mole | CI | CH3I
reactant | methyl iodide | 0.41 mole | CI | CH3I
solvent | methanol | one liter | CO | CH4O
product | N-methyl-o-phenylenediamine | CNC1=C(C=CC=C1)N | C7H10N2
